US08541588B2
4-{4-Chloro-2-[2-(cyclobutyloxy)pyridin-4-yl]phenoxy}-3-cyano-N-(2,4-dimethoxybenzyl)-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
4-Chloro-2-[2-(cyclobutyloxy)pyridin-4-yl]phenol, (Preparation 862, 20.5 mg, 0.000074 mol) was dissolved in dimethylsulphoxide (1 mL). Potassium carbonate (24.6 mg, 0.00018 mol) was added and the reaction stirred for 10 minutes at room temperature. 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide, (Preparation 68, 32.2 mg, 0.000074 mol) was added and the reaction was stirred at room temperature for 15 hours under nitrogen. The reaction was partitioned between a saturated aqueous sodium chloride solution (10 mL) and ethyl acetate (10 mL), the organic layer was washed with water (30 mL). The organic extracts were dried over anhydrous magnesium sulphate, filtered and the solvent removed in vacuo to give a colourless foam (56 mg). The material was purified using an ISCO™ companion (4 g column, eluting with 100% heptane to 7:3 heptane/ethyl acetate). Fractions containing product were combined and concentrated in vacuo to obtain the title compound as a colourless oil (45 mg).

reactant | 4-Chloro-2-[2-(cyclobutyloxy)pyridin-4-yl]phenol | ClC1=CC(=C(C=C1)O)C1=CC(=NC=C1)OC1CCC1 | C15H14ClNO2
reactant | Potassium carbonate | 0.00018 mol, 24.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
solvent | dimethylsulphoxide | 1 mL | CS(=O)C | C2H6OS
product | 4-{4-Chloro-2-[2-(cyclobutyloxy)pyridin-4-yl]phenoxy}-3-cyano-N-(2,4-dimethoxybenzyl)-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 56 mg | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC)C#N)C=C1)C1=CC(=NC=C1)OC1CCC1 | C33H28ClN5O6S2
